US03937704
6,7-Dimethoxy-1-methyl-3-(methylsulfinyl)-4(1H)-cinnolinone
A solution of 10 g of 6,7-dimethoxy-3-(methylsulfinyl)-4(1H)-cinnolinone in 148 ml of 1 normal NaOH was treated with 14 g of (CH3)2SO4 with stirring. As the (CH3)2SO4 dissolved, the temperature rose to ca. 35° and a pasty precipitate formed. The mixture was stirred for 45 minutes and the precipitate was filtered off, washed with cold H2O and recrystallized from CH3CN, mp. 262°-64°; yield 6 g (57%).

reactant | 6,7-dimethoxy-3-(methylsulfinyl)-4(1H)-cinnolinone | 10 g | COC=1C=C2C(C(=NNC2=CC1OC)S(=O)C)=O | C11H12N2O4S
reactant | NaOH | [OH-].[Na+]
reactant | (CH3)2SO4 | 14 g | COS(=O)(=O)OC | C2H6O4S
product | 6,7-Dimethoxy-1-methyl-3-(methylsulfinyl)-4(1H)-cinnolinone | COC=1C=C2C(C(=NN(C2=CC1OC)C)S(=O)C)=O | C12H14N2O4S
